US08604033B2
According to Scheme 3 Step 1: A solution of 2-chloro-N-(pyridin-2-yl)acetamide hydrochloride (0.48 mmol, 99 mg), 1-(4-methoxybenzyl)-3-(trifluoromethyl)-1H-pyrazole-4-carbothioamide (0.48 mmol, 150 mg) in DCM (2.5 mL) was stirred under reflux for 5 days. The crude mixture was evaporated to dryness and was purified by flash chromatography over silica gel using DCM/EtOH/NH3 (100:0:0 to 97:2.7:0.3) as eluent to yield 2-(1-(4-methoxybenzyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)-N-(pyridin-2-yl)thiazol-4-amine (0.22 mmol, 94 mg, 35%).

reactant | 2-chloro-N-(pyridin-2-yl)acetamide hydrochloride | 0.48 mmol, 99 mg | Cl.ClCC(=O)NC1=NC=CC=C1
reactant | 1-(4-methoxybenzyl)-3-(trifluoromethyl)-1H-pyrazole-4-carbothioamide | 0.48 mmol, 150 mg | COC1=CC=C(CN2N=C(C(=C2)C(N)=S)C(F)(F)F)C=C1 | C13H12F3N3OS
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-(4-methoxybenzyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)-N-(pyridin-2-yl)thiazol-4-amine | 0.22 mmol, 94 mg, 35% | COC1=CC=C(CN2N=C(C(=C2)C=2SC=C(N2)NC2=NC=CC=C2)C(F)(F)F)C=C1 | C20H16F3N5OS
